### PR TITLE
Extend seq_in theory

### PR DESCRIPTION
**Pull request by eupp**
A couple of new lemmas for `seq_in` theory

---
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/63)

### CODE REVIEW

File: utilities.v [hunk 1]
```diff
@@ -180,22 +180,40 @@ Section SeqIn.
...
-Proof. by rewrite -[in RHS](sval_seq_in_sub s s') map_pK //; apply: valK. Qed.
+Proof. by rewrite -[in RHS](val_seq_in_sub s s') map_pK //; apply: valK. Qed.
+
+Lemma seq_inE s :
+  seq_in s = pmap insub s.
+Proof. by rewrite /seq_in seq_in_subE. Qed.
+
+Lemma seq_in_mem s x : 
+  x \in seq_in s -> val x \in s.
+Proof. move=> _. exact: (valP x). Qed.
```
Comment (anton-trunov) [inline utilities.v:212]: Since you immediately discard the premise `x \in seq_in s` this lemma looks redundant to me.
Essentially it transforms `x : {x : T | x \in s}` into `val x \in s`. Could you share your use case for this lemma?

Comment (eupp) [reply utilities.v:212]: It turns out I've used it once in my proofs. 
The case was as follows. I had `x \in seq_in s` in my context. Then, I did `have H: (val x \in s) by apply seq_in_mem`. 
I wanted this assumption to be in my context so later I could discard trivial goals using `\\=` and `by` (i.e. I needed `val x \in s` several times in my proof).

Comment (anton-trunov) [reply utilities.v:212]: I think you could use `(valP x)` at any point then. For instance, `rewrite (valP x)` or `move: (valPx)`.

Comment (eupp) [reply utilities.v:212]: Ok, I agree. 
I will remove this lemma, and rename `seq_in_mem_exist` into just `seq_in_mem`.

**Review by anton-trunov — APPROVED** [review]
